US04581435
A. Preparation of Dimethyl-1,5-cyclooctadiene
Nickel (II) acetonylacetonate dihydrate is dispersed in toluene and dried by azeotropic removal of the water (which is captured in a Dean-Stark trap). When no further water can be recovered, the dark green toluene solution of nickel (II) acetonylacetonate (Ni (II) acac) is evaporated to dryness, giving anhydrous Ni (II) acac. A 1000-ml three-necked round-bottom flask is equipped with a heating mantle, a magnetic stirbar and stirrer, a thermometer adaptor and thermometer, a stopcock-protected rubber septum, and a distillation head which was connected to give a nitrogen blanket on the system. The flask is then charged with 120 ml of toluene, 4.35 g (0.017 mole) of anhydrous Ni (II) acac, and 9.36 g (0.0173 mole) of tris(orthophenylphenyl)phosphite, and about 40 ml of toluene are removed by distillation to dry the system. The apparatus is allowed to cool, the distillation head replaced with a reflux condenser and nitrogen inlet/outlet (to maintain a nitrogen blanket), and 448.2 g of piperylene concentrate (containing 52 percent piperylene; 3.43 moles of piperylene), which had been distilled away from sodium metal, were added. The heating mantle is replaced with an ice bath, and the contents of the flask are cooled to below 10° C. At this point, 14.30 g of 25 percent w/v triisobutyl aluminum in toluene (0.0179 mole) is slowly added dropwise, causing the green solution to gradually turn yellowish brown. When addition is complete, the ice bath is replaced with a heating mantle and the reaction mixture is allowed to warm to room temperature. Heating is then begun to achieve reflux (color now bright red-orange) for about 60 hours. Gas chromatography of the reaction mixture shows that conversion is at least 70 percent. The apparatus is then fitted with a 100-cm Vigreux column and the reaction mixture fractionally distilled, the fraction distilling at about 75° C. at 60 Torr being collected as product. Yield is approximately 90 percent based on converted piperylene.

reactant | tris(orthophenylphenyl)phosphite | 0.0173 mole, 9.36 g | C1(=CC=CC=C1)C1=C(C=CC=C1)OP(OC1=C(C=CC=C1)C1=CC=CC=C1)OC1=C(C=CC=C1)C1=CC=CC=C1 | C36H27O3P
reactant | piperylene | C=CC=CC | C5H8
reactant | piperylene | 3.43 moles | C=CC=CC | C5H8
reactant | triisobutyl aluminum | C(C(C)C)[Al](CC(C)C)CC(C)C
catalyst | nickel (II) | 0.017 mole, 4.35 g | [Ni+2]
solvent | toluene | about 40 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 0.0179 mole | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 120 ml | C1(=CC=CC=C1)C | C7H8
product | Dimethyl-1,5-cyclooctadiene | CC1=C(CCC=CCC1)C | C10H16
